US09102621B2
4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide
A mixture of 2,5-difluoro-4-methyl-N-(methylsulfonyl)benzamide (Preparation 9, 5.07 g, 20.3 mmol), N-bromosuccinimide (freshly recrystallised and dried, 4.7 g, 26.4 mmol) and azobisisobutyronitrile (0.05 g, 0.30 mmol) in 1,2-dichloroethane (100 mL) was heated at reflux under nitrogen whilst being irradiated with light from a lamp. After 2 hours, additional azobisisobutyronitrile (0.05 g, 0.30 mmol) was added and the reaction heated under reflux for a further 2 hours. The reaction mixture was cooled to room temperature and evaporated in vacuo. The residue was partitioned between brine (200 mL) and ethyl acetate (2×150 mL). The combined extracts were dried over magnesium sulphate and evaporated in vacuo to give a pale yellow oil which solidified on standing (7.88 g). Purification by flash column chromatography using the ISCO™ system (120 g cartridge), loading in dichloromethane (20 mL) with an eluant of heptane to 20% ethylacetate/heptane to 30% ethylacetate/heptane gave the title compound (3.71 g, 56%) as a white solid.

reactant | 2,5-difluoro-4-methyl-N-(methylsulfonyl)benzamide | 20.3 mmol, 5.07 g | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)C)F | C9H9F2NO3S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.30 mmol, 0.05 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | azobisisobutyronitrile | 0.30 mmol, 0.05 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide | 3.71 g, 56% | BrCC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | C9H8BrF2NO3S
